US05567711
To a solution of indole-4-carboxylic acid methyl ester (2.33 g, 13.3 mmol) in CH2Cl2 (25 mL) was added ethylmagnesium bromide (3M in ether, 4.4 mL, 13.2 mmol). The reaction mixture was stirred for five minutes and ZnCl2 (1M in ether, 40 mL, 40 mmol) was added and the cloudy, brown suspension was stirred for 15 minutes. A solution of trans-4-(N-carbobenzyloxy)aminomethyl-1-cyclohexane carbonyl chloride (4.36 g, 14.1 mmol), prepared as in step 2, in CH2Cl2 (20 mL) was added and the reaction mixture was stirred for three hours. The reaction mixture was poured into a separatory funnel containing saturated aqueous NH4Cl which left a green-brown gum. The gum was broken up by trituration with aqueous 1M HCl and CH2Cl2 /methanol and added to the separatory funnel. The layers were separated and the organic phase was washed with saturated aqueous NaHCO3, dried over MgSO4, filtered, and concentrated in vacuo. Chromatography on silica gel (1%, then 3% methanol/CH2Cl2) gave 3-[(trans-4-(N-carbobenzyloxy)aminomethylcyclohex-1-yl)carbonyl]indole-4-carboxylic acid methyl ester (2.83 g, 48%) as a tan foam.

reactant | indole-4-carboxylic acid methyl ester | 13.3 mmol, 2.33 g | COC(=O)C=1C=2C=CNC2C=CC1 | C10H9NO2
reactant | ethylmagnesium bromide | 13.2 mmol, 3M, 4.4 mL | C(C)[Mg]Br
reactant | trans-4-(N-carbobenzyloxy)aminomethyl-1-cyclohexane carbonyl chloride | 14.1 mmol, 4.36 g | C(=O)(OCC1=CC=CC=C1)NC[C@@H]1CC[C@H](CC1)C(=O)Cl | C16H20ClNO3
reactant | NH4Cl | [NH4+].[Cl-]
reactant | HCl | 1M | Cl | ClH
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
catalyst | ZnCl2 | 40 mmol, 1M, 40 mL | [Cl-].[Cl-].[Zn+2]
solvent | CH2Cl2 methanol | C(Cl)Cl.CO
product | 3-[(trans-4-(N-carbobenzyloxy)aminomethylcyclohex-1-yl)carbonyl]indole-4-carboxylic acid methyl ester | 2.83 g, 48% | COC(=O)C=1C=2C(=CNC2C=CC1)C(=O)[C@@H]1CC[C@H](CC1)CNC(=O)OCC1=CC=CC=C1 | C26H28N2O5
